US06429229B1
Lysine Keto-butyrate
Lysine (1.46 g; 10 mmoles) and oxobutyric acid (1.02 g; 10 mmoles) are dissolved in 5 ml of methanol. Acetone is added, and the precipitate filtered out.

reactant | Lysine | 10 mmoles, 1.46 g | N[C@@H](CCCCN)C(=O)O | C6H14N2O2
reactant | oxobutyric acid | 10 mmoles, 1.02 g | O=C(C(=O)O)CC | C4H6O3
reactant | Acetone | CC(=O)C | C3H6O
solvent | methanol | 5 ml | CO | CH4O
product | Lysine Keto-butyrate | O=C(C(=O)O)CC.N[C@@H](CCCCN)C(=O)O | InChI=1S/C6H14N2O2.C4H6O3/c7-4-2-1-3-5(8)6(9)10;1-2-3(5)4(6)7/h5H,1-4,7-8H2,(H,9,10);2H2,1H3,(H,6,7)/t5-;/m0./s1
